US07919628B2
To a solution of 80 mg of 2-[(1-hydroxy-naphthalene-2-carbonyl)-amino]-2-methyl-propionic acid methyl ester, 50 mg 5,6-dichloro-3-pyridine methanol and 73 mg triphenyl phosphine in 3 ml of dry THF 56 mg of diisopropylazodicarboxylate were added. After 16 h at room temperature the reaction was concentrated in vacuo and after chromatography on silica (ethyl acetate/heptane) 96 mg of 2-{[1-(5,6-dichloro-pyridin-3-ylmethoxy)-naphthalene-2-carbonyl]-amino}-2-methyl-propionic acid methyl ester were obtained.

reactant | 2-[(1-hydroxy-naphthalene-2-carbonyl)-amino]-2-methyl-propionic acid methyl ester | 80 mg | COC(C(C)(C)NC(=O)C1=C(C2=CC=CC=C2C=C1)O)=O | C16H17NO4
reactant | 5,6-dichloro-3-pyridine methanol | 50 mg | ClC=1C=C(C=NC1Cl)CO | C6H5Cl2NO
reactant | triphenyl phosphine | 73 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropylazodicarboxylate | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 3 ml, 56 mg | C1CCOC1 | C4H8O
product | 2-{[1-(5,6-dichloro-pyridin-3-ylmethoxy)-naphthalene-2-carbonyl]-amino}-2-methyl-propionic acid methyl ester | COC(C(C)(C)NC(=O)C1=C(C2=CC=CC=C2C=C1)OCC=1C=NC(=C(C1)Cl)Cl)=O | C22H20Cl2N2O4
